US03933906
The mixture of 0.9 g of 4-(4-acetamidophenylamino)-3-furfurylamino-5-sulfamoylbenzoic acid and 9 ml of 2N aqueous sodium hydroxide is refluxed for one hour under nitrogen, cooled, filtered and the filtrate acidified with glacial acetic acid to pH= 4-5. The precipitate formed is filtered off, washed with water and recrystallized from 50% aqueous ethanol, to yield the 4-(4-aminophenylamino)-3-furfurylamino-5-sulfamoylbenzoic acid melting at 232° with decomposition.

reactant | 4-(4-acetamidophenylamino)-3-furfurylamino-5-sulfamoylbenzoic acid | 0.9 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CO1 | C20H20N4O6S
reactant | sodium hydroxide | 2N, 9 ml | [OH-].[Na+]
product | 4-(4-aminophenylamino)-3-furfurylamino-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CO1 | C18H18N4O5S
